US08754107B2
g) (2R)-tert-butyl 2-methyl-4-(4-phenylpiperidin-1-yl)pyrrolidine-1-carboxylate
The title compound was prepared from (R)-tert-butyl 2-methyl-4-oxopyrrolidine-1-carboxylate and 4-phenylpiperidine according to the general procedure E.

reactant | (R)-tert-butyl 2-methyl-4-oxopyrrolidine-1-carboxylate | C[C@H]1N(CC(C1)=O)C(=O)OC(C)(C)C | C10H17NO3
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | (2R)-tert-butyl 2-methyl-4-(4-phenylpiperidin-1-yl)pyrrolidine-1-carboxylate | C[C@H]1N(CC(C1)N1CCC(CC1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C21H32N2O2
